US07829560B2
3-Fluoro-N-{4-[(2-{[2-(methylsulfonyl)ethyl]amino}pyrimidin-4-yl)oxy]-1-naphthyl}-5-piperidin-1-ylbenzamide (Compound B422).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 2-methanesulfonylethylamine according to conditions described in general procedure C. Mp: 102-104° C.; 1H NMR (400 MHz, CDCl3) δ 1.62-1.71 (m, 6 H), 2.54-2.64 (m, 5 H), 3.27 (t, J=5.5 Hz, 4 H), 3.50 (s, 2 H), 5.66 (bs, 1 H), 6.31 (d, J=5.5 Hz, 1 H), 6.76 (d, J=11.1 Hz, 1 H), 6.98 (d, J=8.5 Hz, 1 H), 7.23 (d, J=8.0 Hz, 1 H), 7.30 (s, 1 H), 7.47-7.56 (m, 2 H), 7.80-7.91 (m, 3 H), 8.17 (d, J=5.5 Hz, 1 H), 8.25 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 2-methanesulfonylethylamine | CS(=O)(=O)CCN | C3H9NO2S
product | 3-Fluoro-N-{4-[(2-{[2-(methylsulfonyl)ethyl]amino}pyrimidin-4-yl)oxy]-1-naphthyl}-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NCCS(=O)(=O)C)C=C(C1)N1CCCCC1 | C29H30FN5O4S
